US06566367B2
Heat a solution of 2 chloro-5-iodo-1H-benzimidazole (3.0 g, 10.7 mmol) and spiro[isobenzofuran-1,4′-piperidin]-3-one (2.63 g, 12.9 mmol) in dry NMP (15 mL) at 100° C. for 14 hours. Pour the cooled mixture into water (50 mL) and extract twice with EtOAc (50 mL). Wash the combined extracts with brine (30 mL), dry, and evaporate in vacuo. Purify by flash column chromatography (50% EtOAc-hexane) to obtain 1′-(5-iodo-1H-benzimidazol-2-yl)-spiro[isobenzofuran-1,4′-piperidin]-3-one as a beige solid.

reactant | chloro-5-iodo-1H-benzimidazole | 10.7 mmol, 3.0 g | ClN1C=NC2=C1C=CC(=C2)I | C7H4ClIN2
reactant | spiro[isobenzofuran-1,4′-piperidin]-3-one | 12.9 mmol, 2.63 g | N1CCC2(CC1)OC(C1=CC=CC=C12)=O | C12H13NO2
reactant | water | 50 mL | O | H2O
solvent | NMP | 15 mL | CN1CCCC1=O | C5H9NO
product | 1′-(5-iodo-1H-benzimidazol-2-yl)-spiro[isobenzofuran-1,4′-piperidin]-3-one | IC1=CC2=C(NC(=N2)N2CCC3(CC2)OC(C2=CC=CC=C23)=O)C=C1 | C19H16IN3O2
